US04897391
Dissolve 8,10-bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one (0.92 g) in dry dichloromethane (100 ml), and pass a stream of hydrogen chloride gas through the solution for 45 min. at ambient temperature (about 25° C.). Stir the resulting mixture at 25° C. for 2 hours, and filter to collect the precipitated crystals. Wash the collected crystals with ether and acetone, and dry and crystallize them to obtain 8,10-bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one dihydrochloride, m.p. 202°-205° C. (from MeOH-ether, as a hemihydrate).

reactant | 8,10-bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one | 0.92 g | NCC(=O)OC1=CC2=C(C(=C3CCCCN3C2=O)C)C(=C1)OC(CN)=O | C18H21N3O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8,10-bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one dihydrochloride | Cl.Cl.NCC(=O)OC1=CC2=C(C(=C3CCCCN3C2=O)C)C(=C1)OC(CN)=O | InChI=1S/C18H21N3O5.2ClH/c1-10-13-4-2-3-5-21(13)18(24)12-6-11(25-15(22)8-19)7-14(17(10)12)26-16(23)9-20;;/h6-7H,2-5,8-9,19-20H2,1H3;2*1H
